US05962458
A solution of 4-bromo-3,6-dichloro-pyridazine (1.11 g, 5 mmol). (J. Chem. Soc., Perkin Trans I, 1974, 696), and 2-(methylamino)ethanol (0. 75 g, 10 mmol) in isopropanol (10 ml) was heated at reflux for 30 minutes. The solvent was removed by evaporation, the residue was partitioned between methylene chloride and water and the aqueous layer was adjusted to pH9 with solid potassium carbonate. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with ether, collected by filtration and dried under vacuum to give 2-(N-(3,6-dichloropyridazin-4-yl)-N-methylamino)ethanol (1 g, 90%).

reactant | 4-bromo-3,6-dichloro-pyridazine | 5 mmol, 1.11 g | BrC1=C(N=NC(=C1)Cl)Cl | C4HBrCl2N2
reactant | 2-(methylamino)ethanol | 10 mmol, 75 g | CNCCO | C3H9NO
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 2-(N-(3,6-dichloropyridazin-4-yl)-N-methylamino)ethanol | 1 g, 90% | ClC=1N=NC(=CC1N(C)CCO)Cl | C7H9Cl2N3O
